US04232016
NH3 is passed into a refluxing solution of 1.48 g. of hexamethylenetetramine in 30 ml. of ethanol; 3.83 g. of 2-(α-bromo-α-fluoroacetamido)-5-nitro-2'-fluorobenzophenone, obtainable from 2-amino-5-nitro-2'-fluorobenzophenone and α-bromo-α-fluoroacetyl bromide, are added over 2 hours. The mixture is then heated under reflux for 3 hours more and is evaporated. The resulting 2-(α-amino-α-fluoroacetamido)-5-nitro-2'-fluorobenzophenone is treated with 15 ml. of toluene and 20 mg. of p-tolunesulfonic acid and is heated under reflux for 1 hour. Working up in the customary manner gives 3-fluoro-5-o-fluorophenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | NH3 | N | H3N
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-(α-bromo-α-fluoroacetamido)-5-nitro-2'-fluorobenzophenone | BrC(C(=O)NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)[N+](=O)[O-])F | C15H9BrF2N2O4
reactant | 2-amino-5-nitro-2'-fluorobenzophenone | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)[N+](=O)[O-] | C13H9FN2O3
reactant | α-bromo-α-fluoroacetyl bromide | BrC(C(=O)Br)F | C2HBr2FO
solvent | ethanol | C(C)O | C2H6O
product | 3-fluoro-5-o-fluorophenyl-7-nitro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | FC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)[N+](=O)[O-])=O | C15H9F2N3O3
